US08008303B2
5′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-4-carboxylic acid
5′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester (6.3 g) was stirred in ethanol (75 ml) and 1M sodium hydroxide (30 ml) at 20 C for 18 h. The mixture was then acidified and the ethanol evaporated. The pale beige solid thus formed was collected by filtration and dried (4.26 g)

reactant | 5′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-4-carboxylic acid ethyl ester | 6.3 g | C(C)OC(=O)C1=CC=C(C=C1)C1=C(C=CC(=C1)NC(=O)OC(C)(C)C)C | C21H25NO4
reactant | sodium hydroxide | 1M, 30 ml | [OH-].[Na+]
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | 5′-tert-Butoxycarbonylamino-2′-methyl-biphenyl-4-carboxylic acid | C(C)(C)(C)OC(=O)NC=1C=CC(=C(C1)C1=CC=C(C=C1)C(=O)O)C | C19H21NO4
